US03994920
Condense o-(p-fluorobenzoyl)benzoic acid with ethylenediamine by the procedure of Example 1 to obtain 9b-(p-fluorophenyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, reduce with lithium aluminum hydride and treat with hydrogen chloride as described in Example 1 to obtain 1-(p-fluorophenyl)-1,2,3,4,5,6-hexahydro-2,5-benzodiazocine, dihydrochloride, m.p. 303° C. (dec.).

reactant | o-(p-fluorobenzoyl)benzoic acid | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9FO3
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 9b-(p-fluorophenyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | FC1=CC=C(C=C1)C12N(C(C3=CC=CC=C13)=O)CCN2 | C16H13FN2O
